data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_557202_1,[N:1]([N:2]([H:9])[H:10])([C:3](=[O:7])[H:11])/[C:4](=[C:5](\[O:6][H:8])[H:13])[H:12]>>[N:1](\[N:2]([H:9])[H:10])=[C:4](/[C:5]([C:3](=[O:7])[H:11])([O:6][H:8])[H:13])[H:12],53.5941475000169
MR_481410_1,[C:1]([C:5]([C:2]([N:7]([H:14])[H:15])([H:16])[H:17])([N:4]([C:3]([H:18])([H:19])[H:20])[H:11])[O:9][H:10])([N:6]([H:12])[H:13])=[O:8]>>[C:1]([C:2]([N:7]([H:14])[H:15])([H:16])[H:17])([C:5]([N:4]([C:3]([H:18])([H:19])[H:20])[H:11])=[O:9])([N:6]([H:12])[H:13])[O:8][H:10],47.83495250000442
MR_478425_1,[C:1](\[C:2]([C:6]([C:4]([C:3]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])([N:8]([H:11])[H:12])[H:15])([H:13])[H:14])(=[N:5]/[H:10])[H:9]>>[C:1]([C:2](/[C:6](=[N:8]/[H:12])[H:15])([H:13])[H:14])([C:4]([C:3]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])([N:5]([H:10])[H:11])[H:9],62.002020000012266
MR_539710_0,[C:1](/[C:5]([C:3](=[C:4]([N:8]([H:13])[H:14])[N:9]([H:15])[H:16])[N:7]([H:11])[H:12])=[C:6](/[C:2]([H:22])([H:23])[H:24])[N:10]([H:17])[H:18])([H:19])([H:20])[H:21]>>[C:1]([C:5]1=[C:3]([N:7]([H:11])[H:12])[C:4]([N:8]([H:13])[H:14])([N:9]([H:15])[H:16])[C@:6]1([C:2]([H:22])([H:23])[H:24])[N:10]([H:17])[H:18])([H:19])([H:20])[H:21],37.84515250000808
MR_475721_0,[C:1]([N:2](/[C:3]([O:6][N:4]([H:8])[H:9])=[N:7]/[H:12])[N:5]([H:10])[H:11])([H:13])([H:14])[H:15]>>[C:1]([N:2]([N:5]([H:10])[H:11])[O:6]/[C:3]([N:4]([H:8])[H:9])=[N:7]/[H:12])([H:13])([H:14])[H:15],62.95958500002016
MR_177266_1,[C:1](/[C:5](=[C:4](/[N:7]([H:11])[H:12])[O:9][H:10])[C:8](=[C:6]([C:2]([H:18])([H:19])[H:20])[C:3]([H:17])([H:21])[H:22])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:5]1=[C:8]([H:13])[C:6]([C:2]([H:18])([H:19])[H:20])([C:3]([H:17])([H:21])[H:22])[C:4]1([N:7]([H:11])[H:12])[O:9][H:10])([H:14])([H:15])[H:16],48.49571000001262
MR_492500_1,[N:1]1([N:4]([H:9])[H:10])[C:2]([N:8][H:13])[O:7][C:6]([H:14])=[C:3]1[N:5]([H:11])[H:12]>>[N:1](=[C:3](\[N:5]([H:11])[H:12])[C@@:6]1([H:14])/[C:2](=[N:8]/[H:13])[O:7]1)\[N:4]([H:9])[H:10],69.34439749998688
MR_151188_2,[C:1](/[C:3]([N:5]([H:12])[H:13])=[N:7]\[C:2]([H:14])([H:15])[H:16])([N:4]([H:10])[H:11])([N:8]=[C:6]([H:17])[H:18])[H:9]>>[C:1]1([N:4]([H:10])[H:11])([H:9])[C:3]([N:5]([H:12])[H:13])([N:8]=[C:6]([H:17])[H:18])[N:7]1[C:2]([H:14])([H:15])[H:16],65.19976000003567
MR_320300_0,[C:1](\[C:2]([H:16])([H:17])[H:18])([N:4]([H:11])[H:12])=[C:6](/[N:8]([C:3]([O:7][H:10])=[O:9])[N:5]([H:13])[H:14])[H:15]>>[C:1]([C:2]([H:16])([H:17])[H:18])([C:3]([O:7][H:10])=[O:9])([N:4]([H:11])[H:12])/[C:6](=[N:8]/[N:5]([H:13])[H:14])[H:15],61.26282500002375
MR_528857_1,[C:1](/[C:3](=[C:4](\[C:2]([H:13])([H:14])[H:15])[N:5]([H:8])[H:9])[O:6][H:7])([H:10])([H:11])[H:12]>>[C:1]([C@@:3]([C:4](=[C:2]([H:13])[H:14])[N:5]([H:8])[H:9])([O:6][H:7])[H:15])([H:10])([H:11])[H:12],73.10500499998028
MR_34797_1,[C:1]([C:5]([C:2]([H:14])([H:15])[H:16])=[C:6]([N:3]([N:4]([H:9])[H:10])[O:7][H:8])[H:11])([H:12])([H:13])[H:17]>>[C:1]([C:5]([C:2]([H:14])([H:15])[H:16])(/[C:6](=[N:3]/[N:4]([H:9])[H:10])[H:11])[O:7][H:8])([H:12])([H:13])[H:17],27.47885249996358
MR_600546_2,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3](=[C:5]([H:15])[H:16])[O:7][H:9])([N:4]([H:10])[H:11])[O:6][H:8]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([N:4]([H:10])[H:11])=[C:5]([H:15])[H:16])([O:6][H:8])[O:7][H:9],64.83643749995423
MR_629426_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])[N:8]([N:5]([H:9])[H:10])[C:6](=[O:7])[H:11]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])[O:7]/[C:6](=[N:8]/[N:5]([H:9])[H:10])[H:11],65.21858499998814
MR_478717_1,[N:1](/[C:2]([N:4]([H:12])[H:13])=[N:8]\[H:14])([N:3]([H:10])[H:11])/[C:5](=[C:6](/[O:7][H:9])[H:16])[H:15]>>[N:1](\[N:3]([H:10])[H:11])=[C:5](\[C@@:6](/[C:2]([N:4]([H:12])[H:13])=[N:8]\[H:14])([O:7][H:9])[H:16])[H:15],61.05261250001945
MR_423052_0,[C:1]([C:5](=[C:4](\[N:7]([H:11])[H:12])[O:9][H:10])/[C:6]([C:2]([H:17])([H:18])[H:19])=[C:8](/[C:3]([H:20])([H:21])[H:22])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:5]1=[C:6]([C:2]([H:17])([H:18])[H:19])[C:8]([C:3]([H:20])([H:21])[H:22])([H:13])[C:4]1([N:7]([H:11])[H:12])[O:9][H:10])([H:14])([H:15])[H:16],34.88586249998903
MR_416885_0,[C:1]([N:2]([C:3]([N:4]([H:10])[H:11])=[O:8])/[C:5](=[N:7]/[O:6][H:9])[H:12])([H:13])([H:14])[H:15]>>[C:1](/[N:2]=[C:5](/[N:7]([C:3]([N:4]([H:10])[H:11])=[O:8])[O:6][H:9])[H:12])([H:13])([H:14])[H:15],48.49068999998963
MR_611614_1,[C:1]1([C:4]([C:5](=[C:6]([H:15])[H:16])[H:14])([H:12])[H:13])([H:7])[C:2]([H:10])([H:11])[C:3]1([H:8])[H:9]>>[C@:1]12([H:7])[C:3]([H:8])([H:9])[C:2]([H:10])([H:11])[C:6]([H:15])([H:16])[C@@:5]1([H:14])[C:4]2([H:12])[H:13],70.64520500000206
MR_240402_0,[C:1]([C:2]([H:9])([H:10])[H:11])([O:4][O:3][O:5][H:6])([H:7])[H:8]>>[C:1]([O:3][O:5][H:6])([O:4][C:2]([H:9])([H:10])[H:11])([H:7])[H:8],68.55437499998402
